US05703240
3-Nitro-2-p-tolyl-pyridine
A stirred mixture of 2-chloro-3-nitropyridine (10.6 g), p-tolylboronic acid (19.69 g) and tetrakis(triphenylphosphine)palladium (O) (0.16 g) in 2N sodium carbonate solution (100 ml) and dimethoxyethane (100 ml) was heated to reflux under nitrogen. After 64 h the mixture was cooled then filtered through hyflo eluting with more dimethoxyethane. The filtrate was evaporated in vacuo to give an oil which was redissolved with ether (300 ml) and washed with 5N sodium hydroxide solution (300 ml). The aqueous portion was further extracted with ether (300 ml×2). The combined organic extracts ware washed with water (200 ml), 1N hydrochloric acid (2×100 ml) and saturated brine. were dried (MgSO4) and evaporated in vacuo. The resultant crystalline solid was triturated with hexane to give the title compound as a yellow crystalline solid (11.66 g). T.l.c.(Hexanelethylacetate (2:1)), Rf 0.52,

reactant | 2-chloro-3-nitropyridine | 10.6 g | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
reactant | p-tolylboronic acid | 19.69 g | B(C=1C=CC(=CC1)C)(O)O | C7H9BO2
reactant | ether | 300 ml | CCOCC | C4H10O
solvent | sodium carbonate | 2N, 100 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethoxyethane | 100 ml | C(OC)COC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.16 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-Nitro-2-p-tolyl-pyridine | 11.66 g | [N+](=O)([O-])C=1C(=NC=CC1)C1=CC=C(C=C1)C | C12H10N2O2
